US05837689
To a stirred solution of 500 g of 2,3,4-tri-O-benzyl-L-fucopyranose (1.15 mole) (Pfanstiehl, Inc.) in 500 ml 1,2-dichloroethane or 550 ml THF, 240 ml acetic anhydride, 135 ml pyridine was added, and the mixture stirred at room temperature for 22 hours. Subsequently, the reaction was diluted with ethyl acetate, washed with water, saturated with sodium bicarbonate and again with water. The solvents were moved in vacuo and azeotroped with toluene. The white solid was placed on a vacuum line, which afforded 542 g (99%) of 1-O-Acetyl-2,3,4-tri-O-benzyl-L-fucopyranose as a colorless crystalline solid in a mixture of anomeric acetates, mp=86°-87.5° C. 564.35 g 1-O-Acetyl-2,3,4-tri-O-benzyl-L-fucopyranose (1.19 moles, 1.00 eq.) and 214.6 ml 2-chloromethyl-3-trimethylsilyl-1-propene (1.19 mole, 1.00 eq.) were dissolved in 1.2 l acetonitrile (HPLC grade) and cooled to approximately 0° C. using an ice-water bath. Subsequently, 11.46 ml trimethylsilyltrifluoromethane sulfonate (59.28 mmoles, 0.05 eq.) was carefully added, the ice-water bath was allowed to melt and the reaction slowly warmed to room temperature (18 hours). Completion of the transformation from starting material to product was indicated by TLC. The reaction was terminated by pouring the reaction contents onto 1 l of ice-water, followed by adjustment to room temperature. The resulting mixture was extracted with 1 l ethyl acetate and the organic phase then washed with 1.0N aqueous sodium hydroxide and brine. The organic phase was dried over anhdyrous magnesium sulfate, filtered, and the solvent was removed in vacuo, which afforded 600.5 g of 2-Chloromethyl-3-(tri-O-benzyl-α-L--C-fucopyranoside)-1-propene (1) as light yellow solid. The product was purified either by crystallization in methanol at 0° C., or by column chromatography using Baker grade flash silica gel (47-61 mm) (ratio of 20 to 1), followed by elution with 5 to 10% ethyl acetate in hexanes giving a white solid (98%), mp 47°-49° C. In low scale reactions, the α- to β- ratios of the C-glycosidation reaction, was >10:1 in favor of the α-fucose derivative (Cha, et al., 1982, J. Am. Chem. Soc. 104:4976). The higher the reaction scale, the less β isomer could be observed; at scales in the multi-gram levels, sometimes only trace amounts.

reactant | 2,3,4-tri-O-benzyl-L-fucopyranose | 1.15 mole, 500 g | C(C1=CC=CC=C1)O[C@@H]1C(O)O[C@H]([C@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)C | C27H30O5
reactant | THF | 550 ml | C1CCOC1 | C4H8O
solvent | 1,2-dichloroethane | 500 ml | ClCCCl | C2H4Cl2
solvent | acetic anhydride | 240 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 135 ml | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-O-Acetyl-2,3,4-tri-O-benzyl-L-fucopyranose | 542 g, 99% | C(C)(=O)OC1[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@@H](O1)C | C29H32O6
